US06313097B1
a) 1-[4-amino-3,5-dibromo-N-(2-hydroxyphenoxysulfonyl)-D-phenylalanyl]-4-(1-methyl-4-piperidinyl)piperazine
Whilst cooling externally with ice 1.377 g (7.998 mmol) of pyrocatechol sulfate was added to a solution of 2.000 g (3.974 mmol) of 1-(4-amino-3,5-dibromo-D-phenylalanyl)-4-(1-methyl-4-piperidinyl)piperazine and 0.61 mL (0.004 mmol) of triethylamine in 50 mL of dimethylformamide and the mixture was then stirred for 1 hour whilst still being cooled with ice and for 2 hours at room temperature. The reaction mixture was concentrated by evaporation in vacuo at a maximum bath temperature of +40° C., the residue was triturated with diethylether, dried in air and used in the next step without further purification. Yield: 2.68 g (100% of theory).

reactant | pyrocatechol sulfate | 7.998 mmol, 377 g | S(=O)(=O)(O)OC=1C(O)=CC=CC1 | C6H6O5S
reactant | 1-(4-amino-3,5-dibromo-D-phenylalanyl)-4-(1-methyl-4-piperidinyl)piperazine | 3.974 mmol, 2.000 g | NC1=C(C=C(C[C@@H](N)C(=O)N2CCN(CC2)C2CCN(CC2)C)C=C1Br)Br | C19H29Br2N5O
reactant | triethylamine | 0.004 mmol, 0.61 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
catalyst | ice 1 | C[C@@H]1OC[C@@H]2[C@@H](O1)[C@@H]([C@H]([C@@H](O2)OC3[C@H]4COC(=O)[C@@H]4[C@@H](C5=CC6=C(C=C35)OCO6)C7=CC(=C(C(=C7)OC)O)OC)O)O.C1CN(P(=O)(OC1)NCCCl)CCCl.[NH2-].[NH2-].Cl[Pt+2]Cl
product | 1-[4-amino-3,5-dibromo-N-(2-hydroxyphenoxysulfonyl)-D-phenylalanyl]-4-(1-methyl-4-piperidinyl)piperazine | NC1=C(C=C(C[C@@H](NS(=O)(=O)OC2=C(C=CC=C2)O)C(=O)N2CCN(CC2)C2CCN(CC2)C)C=C1Br)Br | C25H33Br2N5O5S
